US07053107B2
2-(4-Chloro-2-nitro-phenyl)-malonic acid dimethyl ester
To a stirred slurry of NaH (36.0 g, 1500 mmol) in NMP (1.0 L) was added dimethyl malonate (137.4 mL, 1200 mmol) drop wise. The reaction was cooled as needed to keep the internal temperature below 30 degrees Celsius. After gas evolution ceased, 2,4-dichloronitrobenzene (192 g, 1000 mmol) was added to the reaction. It was carefully heated to 65 degrees Celsius until the reaction was complete as determined by HPLC. The reaction was cooled to room temperature, and then poured over 500 mL ice mixed with 150 mL conc. HCl. The pH of the aqueous layer was adjusted to neutral using 1 N NaOH. The solids were removed by filtering through a coarse fritted filter, and rinsed with water (3 L). The yellow solids were allowed to dry overnight. Yield 261.5 g, 91%.

reactant | NaH | 1500 mmol, 36.0 g | [H-].[Na+]
reactant | dimethyl malonate | 1200 mmol, 137.4 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 2,4-dichloronitrobenzene | 1000 mmol, 192 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | HCl | 150 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | NMP | 1.0 L | CN1CCCC1=O | C5H9NO
product | 2-(4-Chloro-2-nitro-phenyl)-malonic acid dimethyl ester | COC(C(C(=O)OC)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C11H10ClNO6
